US06043365
3-[(R)-β-Cyano-α-(2-fluorophenyl)-propionyl]-4-(R)-phenyl-2-oxazolidinone (400 g, 1.18 mol) is suspended in THF (4000 mL) and H2O (25 mL). The reaction mixture is cooled in ice bath to 0° C. and a solution of LiBH4 in THF (2M, 887 ml, 1.77 mol, 1.5 eq) is added slowly. The mixture is then stirred at 0° C. for 2 hours, after which 2N HCl (1500 mL) is cautiously added. The resulting solution is then extracted with Et2O (2×1500 mL). The combined organic phases are then washed with saturated NaCl solution (2×1500 mL), dried over MgSO4 and concentrated in vacuo. The solid 4(R)-phenyl-2-oxazolidinone is recovered by filtration and washed with Et2O (2×100 mL). The filtrate is then chromatographed (silica gel, EtOAc/Hexanes, 1:3 ) to give β(R)-(hydroxymethyl)-β-(2-fluorophenyl)-propionitrile as an oil.

reactant | 3-[(R)-β-Cyano-α-(2-fluorophenyl)-propionyl]-4-(R)-phenyl-2-oxazolidinone | 1.18 mol, 400 g | C(#N)C[C@@H](C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)C1=C(C=CC=C1)F | C19H15FN2O3
reactant | LiBH4 | [Li+].[BH4-]
reactant | HCl | 2N, 1500 mL | Cl | ClH
solvent | THF | 4000 mL | C1CCOC1 | C4H8O
solvent | H2O | 25 mL | O | H2O
solvent | THF | 1.77 mol, 2M, 887 ml, 1.5 eq | C1CCOC1 | C4H8O
product | β(R)-(hydroxymethyl)-β-(2-fluorophenyl)-propionitrile | OC[C@H](CC#N)C1=C(C=CC=C1)F | C10H10FNO
